Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
___ Complaint:
Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old ___ yr s/p liver transplant with recurrent hepatitis 
C, esophageal varices, acties, portal vein clots, 
encephalopathy, mild jaundice presents from liver clinic today 
with SBP of 80 with associated diaphoresis, lethargy and 
asterexis. Patient also had teeth extracted last ___ and it 
was unclear if he was taking more pain medication than 
prescribed. Patient reports only taking one oxycodone in the 
last 2 days. Patient also reports that he increased his 
methadone to 60 mg beause he was planning to start inteferon 
soon, but there is no documentation of this plan in any of the 
notes from liver clinic. Patient denies CP, SOB, fevers, chills, 
dysuria, headaches, cough, dizziness, syncope and headaches.  
.  
ROS was otherwise essentially negative. The pt denied recent 
unintended weight loss, fevers, night sweats, chills, headaches, 
dizziness or vertigo, changes in hearing or vision, including 
amaurosis fugax, neck stiffness, lymphadenopathy, hematemesis, 
coffee-ground emesis, dysphagia, odynophagia, heartburn, nausea, 
vomiting, diarrhea, constipation, steatorrhea, melena, 
hematochezia, cough, hemoptysis, wheezing, shortness of breath, 
chest pain, palpitations, dyspnea on exertion, increasing lower 
extremity swelling, orthpnea, paroxysmal nocturnal dyspnea, leg 
pain while walking, joint pain.  

 
Past Medical History:
-ITP  
-SVT last episode approximately ___, medically managed at this  

time  
-Hepatitis C  
-ESLD s/p liver Tx ___, s/p revision ___ complicated with  

rejection and steroid use since ___ to present; also  
complicated with Hepatitis C recurrence and restarted peg  
interferon ___. Hep C possibly contracted from ___.  
-Thoracic compression fractures: ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal  

septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent  
HBA1C 5.1 % ( had received blood transfusions with splenectomy 
),  
insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair  
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___  

at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p spent and  

then removal ___  

 
Social History:
___
Family History:
mother has DM2 
 
Physical Exam:
On admission - 
Vitals: T: 96 BP: 90/58 P: 66 R: 19 SaO2: 94% RA
General: Awake, alert, NAD, pleasant, appropriate, cooperative.
HEENT: NCAT, PERRL, EOMI, Lower teeth missing with dry MM, 
thrush in posterior pharynx
Neck: supple, no significant JVD or carotid bruits appreciated
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
Abdomen: Midline scar well healed, soft, NT, ND, normoactive 
bowel sounds, no masses or organomegaly noted
Extremities: No edema, 2+ radial, DP pulses b/l
Skin: no rashes or lesions noted.
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves II-XII intact. Normal bulk, strength 
and tone throughout. Mild asterexis bilaterally.
 
Pertinent Results:
============
Labs
============

___ 04:25PM BLOOD WBC-14.2* RBC-3.07* Hgb-10.0* Hct-32.2* 
MCV-105* MCH-32.6* MCHC-31.1 RDW-14.5 Plt ___
___ 06:00AM BLOOD WBC-10.1 RBC-3.01* Hgb-9.8* Hct-31.4* 
MCV-104* MCH-32.8* MCHC-31.4 RDW-14.7 Plt ___
___ 06:00AM BLOOD WBC-16.8*# RBC-3.21* Hgb-11.0* Hct-33.4* 
MCV-104* MCH-34.2* MCHC-32.9 RDW-14.8 Plt ___
___ 06:00AM BLOOD WBC-14.2* RBC-3.22* Hgb-10.8* Hct-33.6* 
MCV-104* MCH-33.5* MCHC-32.1 RDW-15.1 Plt ___
___ 04:25PM BLOOD ___ PTT-40.3* ___
___ 06:00AM BLOOD ___ PTT-40.6* ___
___ 06:00AM BLOOD ___ PTT-41.2* ___
___ 06:00AM BLOOD ___ PTT-42.6* ___
___ 04:25PM BLOOD Glucose-77 UreaN-38* Creat-1.6* Na-133 
K-3.7 Cl-97 HCO3-32 AnGap-8
___ 06:00AM BLOOD Glucose-108* UreaN-35* Creat-1.2 Na-139 
K-3.4 Cl-102 HCO3-29 AnGap-11
___ 06:00AM BLOOD Glucose-78 UreaN-29* Creat-1.1 Na-134 
K-4.9 Cl-100 HCO3-27 AnGap-12
___ 06:00AM BLOOD Glucose-81 UreaN-31* Creat-1.2 Na-131* 
K-4.7 Cl-98 HCO3-27 AnGap-11
___ 04:25PM BLOOD ALT-34 AST-52* AlkPhos-564* TotBili-3.4*
___ 06:00AM BLOOD ALT-30 AST-42* AlkPhos-502* TotBili-2.6*
___ 06:00AM BLOOD ALT-29 AST-53* AlkPhos-555* TotBili-2.9*
___ 06:00AM BLOOD ALT-28 AST-43* AlkPhos-528* TotBili-2.7*
___ 06:00AM BLOOD tacroFK-12.1
___ 06:00AM BLOOD tacroFK-13.5
.
============
Microbiology
============
Blood cultures ___ x 2 and ___ x2 ngtd
Urine culture ___ and ___ ngtd 
.
===========
Radiology
===========
RUQ U/S ___
DOPPLER EXAMINATION: There is no flow in the splenic vein or any 
portal venous branches, due to extensive thrombus, to the 
portosplenic confluence. There is venous flow adjacent to the 
portovenous confluence, which may represent SMV or venous 
collaterals. There is normal hepatic arterial and hepatic venous 
flow.  
IMPRESSION: No flow in the splenic vein or portal venous 
branches, similar to prior CT. Extensive thrombus within the 
main portal vein. No focal liver
lesions. Cirrhosis without significant ascites.
.
CXR ___
FINDINGS: In comparison with the study of ___, very little 
interval change.
No evidence of acute focal pneumonia. Continued enlargement of 
the cardiac
silhouette with effusion or blunting of the left costophrenic 
angle. Mild
prominence of interstitial markings persists. 
IMPRESSION: Little overall change.
.
CXR ___
FINDINGS: In comparison with the study of ___, there is little 
change.
Enlargement of the cardiac silhouette persists with blunting of 
the
costophrenic angles. Mild prominence of interstitial markings is 
again seen. 
No evidence of acute focal pneumonia.
 
Brief Hospital Course:
___ year old ___ yr s/p liver transplant with recurrent hepatitis 
C, esophageal varices, acties, portal vein clots, 
encephalopathy, mild jaundice presents from clinic with 
hypotension, diaphoresis and lethargy.  
.  
## Hypotension/Fever/Infectious work up: SBP improved on the 
floor without intervention. Patient appears dry on exam, and may 
have poor po intake in the setting of recent teeth extraction. 
___ also be related to increase in pain medication. Afebrile and 
nontoxic appearing. Denies localizing symptoms for infection. 
Orthosatics were negative on admission. Patient did have one 
temperature in house to 101, but remained afebrile after that 
with antibiotics. Culture data (including blood and urine), UA, 
as well as Chest xrays and RUQ u/s were unrevealing. Patient did 
have recent bottom teeth removed, so he was given Chlorhexadine 
mothwash for sterility as this could potentially be an 
infectious source. Patient's lasix was held for concern of 
worsening blood pressure and for decreasing sodium. Plan to 
restart lasix as outpatient pending repeat labs. 
.
## Change in Mental Status: Patient fully oriented on exam 
throughout hospital stay. Mild asterexis which indicated hepatic 
encephalopathy could be contributing.
- Continue rifaximin  
.  
## Acute renal failure: Cr 1.6 from baseline 1 on admission. 
Given Fena less than 1 BUN/Cr ratio of 23, very likely pre-renal 
in etiology. Cr improved back to baseline with gentle hydration 
prior to discharge. 
.  
## HCV cirrhosis S/p liver transplant: LFts at baseline. No 
signs of dramatic encephalopathy.  RUQ u/s revealed previously 
known portal vein thrombus. Patient was continued on rifaximin, 
lactulose was restarted. Patient also continued on lamivudine. 
Prograf was decreased to 0.5 BID alternating with 0.5 daily 
given persistently high serum levels. Finally, coumadin was 
continued for aforementioned thrombus.  
.  
## DM: Continued ISS  
.  
## Psychiatry: Continued Zoloft  
.  
## H/o SVT: Continue betablocker and ccb. Remained rate 
controlled while in house.  
.  
## Pain: Continued Methadone 50 mg daily. 
.  
## Access: piv x1  
.  
## FEN/Lytes: low Na Cardiac diet, replete lytes prn  
.  
## Prophylaxis: Heparin SC 5000 tid  
.  
## Code status: FULL CODE confirmed with patient  
.  
## Communication: ___ ___ ___ SISTER 
 
___ on ___:
Pancrease supplement 2 tablets 4 times a day
Atenolol 50 mg daily
Rocaltrol 0.25 micrograms daily
Diltiazem 180 mg daily
Vitamin D2 50,000 units twice a week
Furosemide 60 mg daily
Gabapentin 100 mg twice daily
Humalog sliding-scale
Epivir 100 mg daily
Methadone 50 mg daily (? inc. dose recently)
Omeprazole 40 mg twice a day
percocet ___ tablet daily
Rifaximin 600 mg twice a day
Actonel 35 mg once a week
Zoloft 50 mg daily
Prograf 0.5 mg twice a day
Trazodone 150 mg nightly
Ursodiol 300 mg twice a day
Coumadin 0.5 mg alternating with 1 mg 
 
Discharge Medications:
1. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Atenolol 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO QIDWMHS (4 times a day 
(with meals and at bedtime)).
Disp:*120 capsule* Refills:*0*
4. Rocaltrol 0.25 mcg Capsule Sig: One (1) Capsule PO once a 
day.
Disp:*30 Capsule(s)* Refills:*0*
5. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
6. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
7. Insulin Regular Human 100 unit/mL Solution Sig: One (1) unit 
Injection ASDIR (AS DIRECTED).
Disp:*1 bottle* Refills:*0*
8. Methadone  Oral
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*120 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
10. Rifaximin 200 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).
Disp:*180 Tablet(s)* Refills:*0*
11. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.
Disp:*4 Tablet(s)* Refills:*0*
12. Zoloft 50 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
13. Prograf 0.5 mg Capsule Sig: One (1) Capsule PO twice a day: 
Please take 1 capsule TWICE daily on ___, 
___ and ONCE daily on ___.
Disp:*60 Capsule(s)* Refills:*2*
14. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).
Disp:*1 bottle* Refills:*0*
15. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).
Disp:*60 Capsule(s)* Refills:*0*
16. Warfarin 1 mg Tablet Sig: One (1) Tablet PO once a day: 
Please take ONE tablet on ___ and 
___. Please take a HALF tablet on ___ and 
___.
Disp:*30 Tablet(s)* Refills:*0*
17. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).
Disp:*1 bottle* Refills:*6*
18. Chlorhexidine Gluconate 0.12 % Mouthwash Sig: Fifteen (15) 
ML Mucous membrane BID (2 times a day).
Disp:*1 bottle* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute renal failure
.
Secondary:
Hepatitis C
Cirrhosis 
Diabetes 

 
Discharge Condition:
Stable. Afebrile. 

 
Discharge Instructions:
You were admitted with low blood pressure and lethargy.  You 
were found to be dehydrated and we treated you with IV fluids. 
You had one low grade fever, but no infection was found. 
.
Three changes were made to your medications:
Please STOP taking lasix until you can have your sodium level 
checked at the transplant clinic next week and a DOCTOR tells 
you to start taking it again. 
Please CHANGE your prograf dose to twice daily alternating with 
once daily and have your level checked next week at the 
transplant clinc. 
Please START taking chlorhexadine mouthwas for oral hygeine 
twice daily
.
Please seek immediate medical attention if you develop fevers, 
chills, weight loss, abdominal pain, nausea, vomitting, 
dizziness, chest pain, or any change from your baseline health 
status. 
 
Followup Instructions:
___